* Created by KLayout

* cell INV_X2
* pin A
* pin vdd
* pin Y
* pin gnd
.SUBCKT INV_X2 A vdd Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
M$1 Y A vdd vdd PMOS L=1U W=10.2U AS=28.56P AD=15.3P PS=26U PD=13.2U
* device instance $2 r0 *1 10.1,44.8 PMOS
M$2 vdd A Y vdd PMOS L=1U W=10.2U AS=15.3P AD=28.56P PS=13.2U PD=26U
* device instance $3 r0 *1 6.1,6.8 NMOS
M$3 Y A gnd gnd NMOS L=1U W=3.4U AS=9.52P AD=5.1P PS=12.4U PD=6.4U
* device instance $4 r0 *1 10.1,6.8 NMOS
M$4 gnd A Y gnd NMOS L=1U W=3.4U AS=5.1P AD=9.52P PS=6.4U PD=12.4U
.ENDS INV_X2
